US20010007873A1
EXAMPLE 30 6-[2-METHOXY-4-(1-METHYL-PIPERIDIN-4-YLOXY)-PHENYL]-PYRIDIN-2-YLAMINE
Lithium aluminum hydride reduction 4-[4-(6-amino-pyridin-2yl)-3-methoxy-phenoxy]-piperidine-1-carboxylic acid tert butyl ester as described above for the reduction of 3-[4-(6-amino-pyridin-2yl)-3-methoxy-phenoxy]-pyrrolidine-1-carboxylic acid tert butyl ester provided, after silica gel chromatography (95:5:0.05: CH2C02: MeOH: NH40H), 65 mg(45%-for two steps) of the title compound.

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[4-(6-amino-pyridin-2yl)-3-methoxy-phenoxy]-piperidine-1-carboxylic acid tert butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)C1=NC(=CC=C1)N)OC | C22H29N3O4
reactant | 3-[4-(6-amino-pyridin-2yl)-3-methoxy-phenoxy]-pyrrolidine-1-carboxylic acid tert butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC(=C(C=C1)C1=NC(=CC=C1)N)OC | C21H27N3O4
solvent | MeOH | CO | CH4O
product | 6-[2-METHOXY-4-(1-METHYL-PIPERIDIN-4-YLOXY)-PHENYL]-PYRIDIN-2-YLAMINE | COC1=C(C=CC(=C1)OC1CCN(CC1)C)C1=CC=CC(=N1)N | C18H23N3O2
